US07465726B2
5-(Benzhydrylideneamino)-1-phenyl-1H-pyridin-2-one
Into a dried flask were added 5-bromo-1-phenyl-1H-pyridin-2-one (125 mg, 0.500 mmol), benzophenone imine (100 μl, 0.600 mmol), tris(dibenzylideneacetone)-dipalladium(0) (1.14 mg, 1.25 μmol), (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (2.33 mg, 3.75 μmol), sodium tert-butoxide (67.2 mg, 0.700 mmol), and toluene (3 ml). The above mixture was flushed with N2 for 5 min and was then heated at 80° C. under an atmosphere of nitrogen for 5 h. After that time, the heating was stopped and the reaction mixture was diluted with ethyl ether (30 ml), filtered and concentrated to obtain light-brown oil, which was then purified by chromatography on silica gel (10 g) eluting with 100 ml of 10%, 20%, 30% and 40%, and 300 ml 50% EtOAc/hexane to obtain the title compound as a yellow solid. 1H NMR (CDCl3, 400 MHz): δ=6.45 (d, 1H, J=9.6 Hz), 6.89 (d, 1H, J=2.8 Hz), 7.00 (dd, 1H, J=2.8 & 10.4 Hz), 7.13-7.16 (m, 2H), 7.19-7.22 (m, 2H), 7.33-7.48 (m, 9H), 7.69-7.72 (m, 2H). MS(ES+): m/z 351.05 (100) [MH+]. HPLC: tR=3.46 min (ZQ2000, polar—5 min).

reactant | 5-bromo-1-phenyl-1H-pyridin-2-one | 0.500 mmol, 125 mg | BrC=1C=CC(N(C1)C1=CC=CC=C1)=O | C11H8BrNO
reactant | benzophenone imine | 0.600 mmol, 100 μl | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 3.75 μmol, 2.33 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | sodium tert-butoxide | 0.700 mmol, 67.2 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 1.25 μmol, 1.14 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(Benzhydrylideneamino)-1-phenyl-1H-pyridin-2-one | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1C=CC(N(C1)C1=CC=CC=C1)=O | C24H18N2O
